US04925854
For two hours, 5.5 g of 2,3-dinitrotoluene is heated with 13.0 g of bisdipropylamino-tert-butoxymethane to 60° C. After cooling, the reaction mixture is freed of volatile components under a high vacuum, thus obtaining 7.6 g of β-dipropylamino-2,3-dinitrostyrene as an oil.

reactant | 2,3-dinitrotoluene | 5.5 g | [N+](=O)([O-])C1=C(C=CC=C1[N+](=O)[O-])C | C7H6N2O4
reactant | bisdipropylamino-tert-butoxymethane | 13.0 g | C(CC)N(CCC)C(OC(C)(C)C)N(CCC)CCC | C17H38N2O
product | β-dipropylamino-2,3-dinitrostyrene | 7.6 g | C(CC)N(C=CC1=C(C(=CC=C1)[N+](=O)[O-])[N+](=O)[O-])CCC | C14H19N3O4
